Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
metoprolol
 
Attending: ___
 
Chief Complaint:
dysarthria, clumsy hand
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ year old woman with history of papillary thyroid
cancer s/p thyroidectomy ___ presumed remission), HTN, DM2,
who presents as ED to ED transfer for evaluation of dysarthria
and right-sided ataxia that started ~ 18 hrs prior to
presentation at OSH ED, 21 hrs to ___ ED.

History obtained by patient and her son at bedside as well as 
per
chart review. The patient is very circumferential on history
taking with tangential thought and as such history details are
based on information extraction throughout the conversation. The
patient reports that she was in her usual state of health up
until last night at about ___, when she began to experienced
dysarthria and right-sided ataxia since ___. 

She was in her usual state of health and was doing her laundry 
at
home. She walked downstairs to the basement to pick up her
laundry at around ___. When she was walking back up the stairs,
she noticed a funny feeling, as if both her legs were weak and
she was swaying, although not to clear direction. She was not
dizzy at the time and did not have visual changes. She noted
bilateral tip of fingers and toes numbness that resolved. When
she put down the laundry basket she noticed that her right hand
was not working well. She thought it was strong but clumsy. She
could not even write her name and was worried about how she 
would
write checks. She tried to pour herself a glass of water, but
kept missing the glass, pouring water everywhere, and then 
having
trouble raising the glass to her mouth. 

She presented to ___ initially where telestroke was called.
NIHSS4 for ___ as month of year, dysarthria, RUE dysmetria, RLE
drift. ___ was without hemorrhage but notable for meningioma.
No tPA as outside window. She was transferred to ___ for
neurology consultation.

On further review of events leading up to presentation, the
patient endorses that she has had recent falls, however the son
is only aware of one fall several weeks ago, which occurred
without headstrike and was described as mechanical. She also has
a history of spinal stenosis and osteoarthritis. In a routine
visit to her PCP, her BP was notably high, but this was
attributed to white coat hypertension. On presentation to ___,
DBP was 117, down to 95 without intervention. 

Regarding her oncologic history, she notes she has had three
different types of cancers in different locations: papillary
thyroid cancer ___ years ago s/p resection, squamous cell 
cancer
found in her lung (one solitary nodule), and an unspecified
neuroendocrine cancer found in an axillary lymph node. Leading 
up
to today's presentation, she has been in her usual state of
health though, without significant B symptoms, unexpected weight
loss, change in thought process. Her son notes that at baseline,
she enjoys conversations.

AT BI M:
=========
INR 1, PTT 30
WBC 6.5, HgB 16.5, PLT 201

NCHCT: chronic right parasafital meningioma with localized mass
effect, unchanged as per MRI ___
2. mild involutional small vessel disease 
no hemorrhage

 
ROS: 
Notable for diabetic peripheral neuropathy, numbness along right
V3 distribution ___ mass excision, lower back pain from lumbar
 
Past Medical History:
DM2
HLD
HTN
Hypothyroidism s/p surgical removal     
? squamous cell lung nodule
? neuroendocrine tumor in LN
lumbar stenosis
 Surgical Hx:
===========
THyroidectomy, tonsillectomy, colonic polypectomy

 
Social History:
Allergies:
==========
metoprolol (reaction unclear)
                                                       

SOCIAL HISTORY:
She used to work as a "___" per her son.

___ status:     ___                                     
Children:           Yes                                         
Tobacco use:        Former smoker                               
     Year Quit:     ___                                        
     Years Since    ___                                          
     Quit:                                                      
     # Packs/Day:    3                                          
     # Years Smoked: 50                                         
     Pack Years:    150                                         
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         

- Modified Rankin Scale:
[] 0: No symptoms
[x] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Physical Exam:
PHYSICAL EXAMINATION: 
Vitals: 
afebrile, BP 180/80, RR16, 95-100RA

General: Awake, cooperative
HEENT: no lesions noted in oropharynx.
Neck: Supple. Scarring from thyroidectomy, more pronounced along
right side of neck
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: Bilateral pedal edema, 1+
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert and oriented to date and year and city.
Attentive to examiner although with tangential and
circumferential thought. She has a plethora of spontaneous 
speech
output with digressions through conversation (at baseline per 
her
son). Follows simple midline, appendicular, cross-body and
two-step commands. Naming is intact to high and low frequency
objects. No neglect. No apraxia.

-Cranial Nerves: Right pupil 3>2. Left 4>3. EOMI with ___ beats
nystagmus on right lateral gaze. She has hypermetric saccades
when looking at target on right but not on left. No skew
deviation. VFF to finger counting. She has right facial numbness
along scar tissue from thyroidectomy in distribution of V3.
Tongue midline. She has dysarthria with guttural sounds but not
labial sounds. 

-Motor: Normal bulk, decreased tone throughout. Right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: She has diminished sensation to pinprick and
temperature in stocking-glove distribution. She has diminished
JPS in both her toes bilaterally. Romberg deferred secondary to
gait instability.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: She has dysmetria with right FNF. She has
difficulty with rapid alternating movements with her right hand.
HKS testing is limited by body habitus. She has no ataxia when
asked to touch her right heel to my finger.

-Gait: deferred out of concern for gait instability, fall risk

DISCHARGE EXAM: 
97.5 PO 151 / 81 72 18 96 RA 

Neurologic:
-Mental Status: Alert and oriented to date and year and city.
Attentive to examiner although with tangential and
circumferential thought. She has a plethora of spontaneous 
speech
output with digressions through conversation (at baseline per 
her
son). Follows simple midline, appendicular, cross-body and
two-step commands. Naming is intact to high and low frequency
objects. No neglect. No apraxia.

-Cranial Nerves: pupils 3->2. She has hypermetric saccades
when looking at target on right but not on left. No skew
deviation. VFF to finger counting. Right facial droop.
Tongue midline. She has dysarthria.

-Motor: Right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    5    5   5    5   

-Sensory: She has diminished sensation to pinprick and
temperature in stocking-glove distribution. She has diminished
JPS in both her toes bilaterally. Romberg deferred secondary to
gait instability.

-Reflexes: 
Plantar response was flexor bilaterally.

-Coordination: She has dysmetria with right FNF. 

-Gait: wide based gait
 
Pertinent Results:
LABORATORY DATA:

___ 04:35PM   ___ COMMENTS-GREEN TOP
___ 04:35PM   CREAT-0.7
___ 04:35PM   estGFR-Using this
___ 04:29PM   GLUCOSE-105* UREA N-14 CREAT-0.8 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-26 ANION GAP-18
___ 04:29PM   estGFR-Using this
___ 04:29PM   ALT(SGPT)-16 AST(SGOT)-17 ALK PHOS-83 TOT 
BILI-0.6
___ 04:29PM   ALBUMIN-4.6 CALCIUM-8.7 PHOSPHATE-3.8 
MAGNESIUM-1.9
___ 04:29PM   WBC-8.0 RBC-5.23* HGB-15.2 HCT-46.7* MCV-89 
MCH-29.1 MCHC-32.5 RDW-14.5 RDWSD-46.9*
___ 04:29PM   PLT COUNT-192
___ 06:44AM BLOOD TSH-0.83
___ 06:44AM BLOOD %HbA1c-5.7 eAG-117
___ 06:44AM BLOOD ALT-15 AST-24 LD(LDH)-358* CK(CPK)-249* 
AlkPhos-77 TotBili-0.7

EKG: left atrial enlargement, prior anterior ischemic infarct
(chronic) NSR

IMAGING: 
___ NCHCT - 1.5x1.6 cm calcified mass with broad dural base 
along
posterior right falx; no hemorrhage or large territory infarct

___ CTA head and neck - ? narrowing of left vertebral artery 
just
prior to merge into basilar artery. multifocal atherosclerotic
calcifications in bilateral common carotid arteries and within
siphon

1. Examination is moderately degraded by motion. 
2. Acute to subacute infarction in the lateral left thalamus. 
3. Right posterior parafalcine probable meningioma measuring up 
to 2.2 cm. 
4. No additional areas of abnormal enhancement to suggest 
metastatic disease. 
5. No evidence of acute intracranial hemorrhage. 
6. Findings of probable moderate to extensive chronic small 
vessel ischemic 
disease. 
7. Question Dolichoectasia of the cavernous internal carotid 
arteries 
measuring up to 8 mm on the left and 6 mm on the right. 
8. Otherwise, grossly patent circle of ___ with no evidence 
of occlusion. 
9. Paranasal sinus disease , as described. 

 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman with DM2, HTN who was 
admitted to the Neurology stroke service with 2 days of 
dyasrthria and clumsy hand secondary to an acute ischemic stroke 
in the left thalamus. 

#Left thalamic ischemic infarct
Given the location and risk factors, the etiology is thought to 
be small vessel disease. Her A1c 5.7 and was LDL 152. She also 
has a 150 pack year history of smoking although she stopped ___ 
years. We started her on aspirin 81 mg daily and atorvastatin 40 
mg daily. Initially her atenolol was halved given acute stroke 
(goal is perfusion), but was resumed at 50 mg daily on HD2. She 
should have ongoing BP monitoring and increased atenolol as 
needed for BP goal in long run of <140/50. ___ evaluated and 
recommended rehab. 

Of note, she is often non-compliant with medications because she 
says she doesn't medications. We have made a call to her primary 
care to continue medication compliance counseling. 

#social work: social work was involved during her stay given 
some conflict with her children. They felt like she was not 
taking her condition seriously given her refusal of rehab and 
wanting to go home. Social work stepped in to help patient and 
family dynamics. 

Transitional Issues:
====================
[] Please continue to monitor and treat blood pressure, with 
long term goal BP<140/90
[] Please follow-up LDH as it was elevated in 300s range in the 
hospital
[] Patient at time reluctant to take medications, continue to 
encourage secondary prevention for stroke with aspirin and 
atorvastatin 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 152 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Furosemide 40 mg PO 1X:ASDIR PRN leg swelling 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Atenolol 50 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Furosemide 40 mg PO 1X:ASDIR PRN leg swelling  
6.  Levothyroxine Sodium 150 mcg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute ischemic stroke
hyperlipidemia
hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

___ were hospitalized due to symptoms of difficulty walking and 
slurred speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

- high blood pressure
- high fats in your blood 

We are changing your medications as follows:
- START taking aspirin 81 mg daily
- START taking atorvastatin 40 mg daily 

Please take your other medications as prescribed.

Monitor your blood pressure as ___ may need a higher dose of 
blood pressure medication.

Please follow up with Neurology and your primary care physician 
as listed below.
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___